reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](=[C:2]([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])[H:10])([H:7])[H:8].[O:3]([H:9])[H:11]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9],55.4541810780998
[N:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@@:4]([O:5][H:15])([H:14])[N:7]([H:13])[C:6]1)([H:8])[H:9]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],59.6244374640779
[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:13].[C:2](=[O+:3][C:4]([C:5]([H:14])([H:15])[H:16])=[C:6]([O-:7])[H:17])([H:11])[H:12],88.2889444274457
[C:1]([C:2](=[O:3])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[H:7])([C:4]#[N:5])([H:6])[H:8],99.7885072431727
[O:1]=[C:2]1[C:3]([H:7])([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]1([H:13])[H:14]>>[C:3](=[C:4]([C:5]([H:9])([H:11])[H:12])[H:10])([H:7])[H:8].[O:1]=[C:2]=[C:6]([H:13])[H:14],113.64105963698601
[O:1]([C:2]([c:3]1[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[o:7]1)([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],85.8464218672656
[C:1]([C:2](=[C:3]([H:11])[H:12])[O:5][C:6](=[O:7])[H:15])([H:8])([H:9])[H:10].[C:4]([H:13])[H:14]>>[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],5.475656902387698
[C:1]([C:2]1([C:5][O:6][H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],29.010804121777497
[C:1]([C:2]([O:3][O:5][H:11])=[C:4]([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[C:4]([O:5][H:11])([H:9])[H:10])([H:6])([H:7])[H:8],56.65631311790601
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[H:9][H:11].[N:1](=[C:2]1\[O:3][C@:4]1([O:5]/[C:6](=[N:7]/[H:13])[H:12])[H:10])\[H:8],98.516903326549
[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([O+:7]=[C:6]([N:5]([C-:4]([H:13])[H:14])[H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],94.3480665073909
[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[H:8][H:13].[O:1]=[C:2]([C:3]([O:4]/[C:5](=[N:6]\[H:7])[H:12])([H:10])[H:11])[H:9],83.5295456379028
[C:1]([O:2]/[C:3]([C:4]([H:9])([H:10])[H:11])=[N:5]/[H:12])([H:6])([H:7])[H:8]>>[C:1]([O:2][H:9])([H:6])([H:7])[H:8].[C:3](=[C:4]([H:10])[H:11])=[N:5][H:12],78.0793316964349
[C+:1](=[C:2]=[C:3]([N:5]([C-:4]([H:8])[H:9])[H:10])[H:7])[H:6]>>[C:1](#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],32.381131894616686
[N:1](/[C:2]([O:3][H:10])=[N:4]\[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9],20.1338182678321
[N:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:9])[H:10])([H:7])[H:8]>>[N+:1](=[C-:2][O:3][C:4](=[O:5])[N:6]([H:9])[H:10])([H:7])[H:8],72.2900872544668
[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[H:11])([H:9])[H:10])([C:5](=[O:6])[H:12])([H:7])[H:8],89.96890092305641
[C:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]1([H:13])[C:4]([H:14])([H:15])/[C:5]1=[N:6]/[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],109.069572423568
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:4]=[C:5]([C:3]([H:12])([H:13])[H:14])[C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],92.9566511350831
[O:1]([C:2]([O:6][C:5]([C:4]([C:3][H:10])([H:11])[H:12])([H:13])[H:14])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7],33.3208116962073
[C:1](=[C:2]=[C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])[H:8])([H:7])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],130.4437276468856
[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7]>>[C:5](#[N:6])[H:10].[N:1](=[C:2](/[O+:3]=[C-:4][H:9])[H:8])\[H:7],95.386736123154
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[C:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:6](=[C:5]=[C:4]([H:14])[H:15])[H:16])[H:10])([H:7])([H:8])[H:9],106.014758131448
[N:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])/[C:6]1=[N:7]\[O:5][H:15])([H:8])[H:9]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],88.4780259083059
[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C@:3]3([H:10])[C:4]([H:11])([H:12])[C@@:5]1([H:13])[C@:6]23[H:14]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C@@:3]([C:6][H:14])([H:10])[C:4]([H:11])([H:12])[C@@:5]12[H:13],88.9422188465797
